US05962465
2-[(4-Fluoro)-benzylamino-methyl]-6-methyl-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one
(R)-2-(Toluene-4-sulfonyloxymethyl)-6-methyl-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one (0.28 g, 0.72 mmole) and 4-fluorobenzylamine (0.45 g, 3.6 mmole) were combined in 10 ml of dry DMSO and heated to 90° C. for 4 hours under a nitrogen atmosphere. After cooling to room temperature, 150 ml of water was added and the mixture was extracted twice with 250 ml portions of 35% ethyl acetate in hexane. The combined organic phases were washed with brine, dried over MgSO4, filtered and concentrated in vacuum to yield an orange semisolid. Column chromatography on silica gel using 1% methanol/CH2Cl2 as eluant gave the free base of the title compound as a brown oil. This was crystallized from isopropanol with the addition of fumaric acid (0.20 g, 1.7 mmole) to give 0.06 g of the (S) enantiomer of the title compound as a beige solid fumarate, m.p. 233-234° C.

reactant | (R)-2-(Toluene-4-sulfonyloxymethyl)-6-methyl-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | 0.72 mmole, 0.28 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3CC(NC3=C(C2)C)=O)O1)C | C19H19NO6S
reactant | 4-fluorobenzylamine | 3.6 mmole, 0.45 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | water | 150 ml | O | H2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-[(4-Fluoro)-benzylamino-methyl]-6-methyl-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | FC1=CC=C(CNCC2COC=3C(=C4CC(NC4=C(C3)C)=O)O2)C=C1 | C19H19FN2O3
